US08236963B2
Intermediate 38: benzyl 5-chloro-2-oxoindoline-1-carboxylate, (cf. Scheme 9, compound XXI)
Benzyl 2-{[(benzyloxy)carbonyl]oxy}-5-chloro-1H-indole-1-carboxylate, intermediate 37 (5.00 g; 11.47 mmol) was treated with a solution of ammonia in dioxane (25.2 ml; 0.50 M; 12.6 mmol) and stirred overnight. Brine was added and the mixture extracted with ethyl acetate. The organic phase was dried (MgSO4) and removed in vacuo, to give a solid residue which was purified by recrystallisation (ethyl acetate), to give the title compound in 59% yield (HPLC purity 88%). MS (ESI+): 302.1; MS (ESI−): 300.1

reactant | Benzyl 2-{[(benzyloxy)carbonyl]oxy}-5-chloro-1H-indole-1-carboxylate | C(C1=CC=CC=C1)OC(=O)OC=1N(C2=CC=C(C=C2C1)Cl)C(=O)OCC1=CC=CC=C1 | C24H18ClNO5
reactant | ammonia | N | H3N
reactant | dioxane | 12.6 mmol, 0.50 M, 25.2 ml | O1CCOCC1 | C4H8O2
solvent | Brine | [Cl-].[Na+].O
product | benzyl 5-chloro-2-oxoindoline-1-carboxylate | 59% yield | ClC=1C=C2CC(N(C2=CC1)C(=O)OCC1=CC=CC=C1)=O | C16H12ClNO3
